US08420690B2
c) 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenylpropyl]carbamate
To a solution of 1,1-dimethylethyl (2-hydroxy-3-phenylpropyl)carbamate (10.0 g, 39.8 mmol), PPh3 (12.5 g, 47.8 mmol) and phthalimide (6.44 g, 43.8 mmol) in THF (125 mL) at RT was added DEAD (9.4 mL, 59.7 mmol) over 5 min. After 1 h at RT, the reaction solution was concentrated and purified on silica (hexanes/EtOAc, 2:1) to give the title compound as a white solid (12.6 g, 83%): LCMS (ES) m/z 381 (M+H)+.

reactant | 1,1-dimethylethyl (2-hydroxy-3-phenylpropyl)carbamate | 39.8 mmol, 10.0 g | OC(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C14H21NO3
reactant | PPh3 | 47.8 mmol, 12.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | phthalimide | 43.8 mmol, 6.44 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | DEAD | 59.7 mmol, 9.4 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-phenylpropyl]carbamate | 12.6 g, 83% | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C22H24N2O4
